US07560551B2
TFA (0.677 ml, 8.79 mmol) was added into a solution of tert-butyl 2-(2-fluoro-4-iodopyridin-3-yl)ethylcarbamate (1.61 g, 4.40 mmol) in DCM (6.28 ml, 4.40 mmol). After 4 h, LCMS showed mainly starting material. 1 mL of TFA was added. After 16 h, the reaction was diluted with DCM, neutralized with sat. NaHCO3. The product was extracted with DCM. The organic layer was washed with brine, dried over MgSO4, and concentrated to afford a creamy colored solid, 2-(2-fluoro-4-iodopyridin-3-yl)ethanamine. MS Calcd for C7H8FIN2: [M]+=266. Found: [M+H]+=267. HRMS Calcd for C7H8FIN2: [M+H]+=266.9789. Found: [M+H]+=266.9802.

reactant | TFA | 8.79 mmol, 0.677 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-(2-fluoro-4-iodopyridin-3-yl)ethylcarbamate | 4.40 mmol, 1.61 g | FC1=NC=CC(=C1CCNC(OC(C)(C)C)=O)I | C12H16FIN2O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 4.40 mmol, 6.28 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-fluoro-4-iodopyridin-3-yl)ethanamine | FC1=NC=CC(=C1CCN)I | C7H8FIN2
